US06498251B1
Synthesis Example 2c N-t-Butoxycarbonyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine
N-t-Butoxycarbonyl-3-dimethylaminomethylene-4-piperidone (690 mg, 2.7 mmol) was dissolved in methanol (12 ml), and the solution was mixed with hydrazine monohydrate (160 mg, 3.3 mmol) and heated under reflux for 1 hour. The solvent was removed by evaporation from the reaction solution under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 400 mg (1.8 mmol, 66% in yield) of the title compound.

reactant | N-t-Butoxycarbonyl-3-dimethylaminomethylene-4-piperidone | 2.7 mmol, 690 mg | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)=CN(C)C | C13H22N2O3
reactant | hydrazine monohydrate | 3.3 mmol, 160 mg | O.NN
reactant | methanol | 12 ml | CO | CH4O
product | N-t-Butoxycarbonyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine | C(C)(C)(C)OC(=O)N1N=CC=2CNCCC21 | C11H17N3O2
